US05266585
2-[p-(Phenoxy)-phenyl]-2-(1H-1,2,4-triazolylmethyl)-4-(p-chlorobenzyloxymethyl)1,3-dioxolane
14,1 parts of 2-[p-(Phenoxy)-phenyl]-2-(1H-1,2,4-triazolyl-methyl)-4-hydroxymethyl-1,3-dioxolane dioxolane dissolved in 100 ml absolute dioxane and then 1,8 parts of 55 % sodium hydrid dispersion in 100 ml absolute dioxane are stirred in at room temperature while introducing nitrogen. The mixture is heated 3 hours to 80° C., then cooled to room temperaLure, treated dropwise within 30 minutes with 8,6 parts of p-chlorobenzylbromide dissolved in 50 parts of absolute dioxane. The reaction mixture is beated 3 hours to 50° C., then cooled to room temperature, diluted with 1200 ml ice-water and extracted with three 200 ml portions of ethyl acetate. The combined extracts are washed with two 70 ml portions of water, dried over sodium sulfate, filtered and the solvent removed by evaporation. The remaining diastereoisomers are separated by column chromatography (silica gel/ethyl acetate). The eluant is then removed by evaporation to give the diastereoisomer B in the form of crystals with a melting point of 83°-85° C. The diastereoisomer A is obtained after the evaporation of the solvent in form of a viscous slightly brownish oil; nD26 : 1.5865.

reactant | 2-[p-(Phenoxy)-phenyl]-2-(1H-1,2,4-triazolyl-methyl)-4-hydroxymethyl-1,3-dioxolane dioxolane | O1COCC1.O(C1=CC=CC=C1)C1=CC=C(C=C1)C1(OCC(O1)CO)CN1N=CN=C1
reactant | sodium hydrid | [H-].[Na+]
reactant | p-chlorobenzylbromide | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-[p-(Phenoxy)-phenyl]-2-(1H-1,2,4-triazolylmethyl)-4-(p-chlorobenzyloxymethyl)1,3-dioxolane | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1(OCC(O1)COCC1=CC=C(C=C1)Cl)CN1N=CN=C1 | C26H24ClN3O4
